US08044052B2
Phenyl 3-methylpyrazin-2-ylcarbamate
A solution of 2-amino-3-methyl-pyrazine (1.50 g, 1.37 mmol) in a mix of 1:2 THF:MeCN (30 mL), and pyridine (0.664 g, 1.44 mmol) was treated dropwise with phenylchloroformate (1.3 g, 1.44 mmol) in THF (10 mL). After stirring for 18 h, the reaction mixture was concentrated in vacuo to a solid and was used without further purification.

reactant | 2-amino-3-methyl-pyrazine | 1.37 mmol, 1.50 g | NC1=NC=CN=C1C | C5H7N3
reactant | MeCN | 30 mL | CC#N | C2H3N
reactant | pyridine | 1.44 mmol, 0.664 g | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 1.44 mmol, 1.3 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Phenyl 3-methylpyrazin-2-ylcarbamate | CC=1C(=NC=CN1)NC(OC1=CC=CC=C1)=O | C12H11N3O2
